US08022206B2
(4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)-piperazin-1-ylmethanone
A solution of triphosgene (4 mg, 0.01 mmol) in DCM (0.8 mL) was cooled to 0° C. A solution of 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine (10.0 mg, 0.0237 mmol), DIPEA (0.04 mL, 0.2 mmol) and DCM was added, and the mixture was allowed to warm to rt. A solution of tert-butyl 1-piperazinecarboxylate (8.82 mg, 0.0474 mmol) in DCM was then added, and the mixture was stirred at rt for 30 min. The material was transferred to a separatory funnel and washed with sat. aq. NaHCO3. The organic layer was concentrated in vacuo, redissolved in dioxane and transferred to a sealed tube. 4 M HCl in 1,4-dioxane (0.2 mL) was added, and the solution was heated to 50° C. for 3 h. The material was concentrated in vacuo and redissolved in DMF (0.5 mL). The solution was purified by HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a brown solid. 1H NMR (CD3OD, 400 MHz): δ=1.89 (d, J=6.8 Hz, 3H), 2.56 (br, s, 2H), 3.21-3.29 (m, 4H), 3.44-3.52 (m, 4H), 3.56 (t, J=5.8 Hz, 2H), 4.08 (d, J=2.5 Hz, 2H), 6.26 (br, s, 1H), 6.50 (q, J=6.7 Hz, 1H), 7.22 (t, J=8.7 Hz, 1H), 7.40 (dd, J=9.0, 4.9 Hz, 1H), 7.66 (s, 1H), 8.19 (s, 1H). MS (ES+): m/z 534.14 [MH+]. HPLC: tR=2.16 min (ZQ2, polar—5 min).

reactant | triphosgene | 0.01 mmol, 4 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | 0.0237 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | DIPEA | 0.2 mmol, 0.04 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 1-piperazinecarboxylate | 0.0474 mmol, 8.82 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)-piperazin-1-ylmethanone | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)C(=O)N2CCNCC2)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C25H26Cl2FN5O3
